US07423061B2
tert-Butyl(3S)-3-({[2-[(aminocarbonyl)amino]-5-(4-methoxyphenyl)-3-thienyl]carbonyl}amino)azepane-1-carboxylate.
To a solution of methyl 5-(4-methoxyphenyl)-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate (1.36 g, 3 mmol) in anhydrous THF (20 mL) was added a solution of [Me2Al-3-Boc-(S)-3-aminohomopiperidine] in THF (preformed by the careful addition of Me3Al (2.0 M in hexanes, 3.0 mL, 6.0 mmol) to a solution of (S)-3-amino-azepane-1-carboxylic acid tert-butyl ester in 10 nL of THF at −78° C. followed by warming to room temperature under nitrogen and stirring for an additional 15 min.). The resulting deep yellow/orange solution was stirred overnight at room temperature. The reaction mixture was cooled with ice and a 10% aqueous solution of Rochelle's salt was added slowly to quench the reaction. The resulting biphasic solution was warmed to room temperature and stirred for an additional 1 h. The mixture was diluted with EtOAc and H2O, the aqueous layer was extracted with EtOAc (3×) and the combined organic extracts were washed with H2O, brine and dried (Na2SO4). Evaporation gave a pale orange solid. Purification by ISCO MPLC (SiO2, 60-80% EtOAc/hexanes) gave 0.9 g (62%) of the title compound as a white solid. 1H NMR (d6-DMSO, δ 11.0, s, 1H, δ 7.95, d, 0.5H, δ 7.81, d, 0.5H, δ 7.65, s, 0.5H; δ 7.56, s, 0.5H; δ 7.46, d, 2H; δ 6.97, d, 2H; δ 6.96, br s, 2H; δ 4.19, m, 0.5H; δ 4.11, m, 0.5H; δ 3.77, m, 3H; δ 3.65, m, 1H; δ 3.48, m, 1H; δ 3.20, m, 2H; δ 1.75, m, 3H; δ 1.58, m, 2H; δ 1.42, s, 4.5H; δ 1.39, m, 1H; δ 1.36, s, 4.5H), LC/MS (APCI, ES, M+H=489).

reactant | methyl 5-(4-methoxyphenyl)-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate | 3 mmol, 1.36 g | COC1=CC=C(C=C1)C1=CC(=C(S1)NC(=O)NC(C(Cl)(Cl)Cl)=O)C(=O)OC | C16H13Cl3N2O5S
reactant | Me3Al | 6.0 mmol, 2.0 M, 3.0 mL | C[Al](C)C
reactant | (S)-3-amino-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CCCC1)N | C11H22N2O2
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 nL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | tert-Butyl(3S)-3-({[2-[(aminocarbonyl)amino]-5-(4-methoxyphenyl)-3-thienyl]carbonyl}amino)azepane-1-carboxylate | 0.9 g, 62% | NC(=O)NC=1SC(=CC1C(=O)N[C@@H]1CN(CCCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C24H32N4O5S
